US07030118B2
C) (±)-2-(1-Amino-propyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one, hydrochloride salt
A solution of [1-(4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-propyl]-carbamic acid tert-butyl ester (10 mg, 0.034 mmol) in absolute methanol (0.5 mL) was treated with 2 N HCl/diethyl ether (2 mL) and the mixture stirred at room temperature overnight. The resulting white suspension was concentrated under vacuum and the solid residue triturated with diethyl ether and dried under vacuum to give the title compound (6 mg, 77%) as white powder: 1H NMR (DMSO-d6) δ 1.08 (t, 3H, J=7.15 Hz), 2.02 (m, 1H), 2.11 (m, 1H), 4.20 (s, 1H), 6.60 (s, 1H), 7.03 (s, 1H), 7.54 (s, 1H).

reactant | [1-(4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-propyl]-carbamic acid tert-butyl ester | 0.034 mmol, 10 mg | C(C)(C)(C)OC(NC(CC)C1=NN2C(C(N1)=O)=CC=C2)=O | C14H20N4O3
reactant | HCl diethyl ether | 2 N, 2 mL | Cl.C(C)OCC
solvent | methanol | 0.5 mL | CO | CH4O
product | (±)-2-(1-Amino-propyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one, hydrochloride salt | 6 mg, 77% | Cl.NC(CC)C1=NN2C(C(N1)=O)=CC=C2 | InChI=1S/C9H12N4O.ClH/c1-2-6(10)8-11-9(14)7-4-3-5-13(7)12-8;/h3-6H,2,10H2,1H3,(H,11,12,14);1H
